US04966905
2-Methyl-2-phenyl-5-[2-(4-pyridinyl)ethenyl]-3(2H)-furanone
To a solution of 4-pyridinecarboxaldehyde (1.4 mL, 14.9 mM) and 2,5-dimethyl-2-phenyl-3(2H)-furanone (2.0 g, 10.6 mM) in ethanol (50 mL), was added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 323 mg, 2.1 mM). The reaction solution was heated at 60° C. for 4 hours. After the reaction solution cooled to room temperature, saturated aqueous sodium chloride (400 mL) was added. The aqueous layer was extracted with diethyl ether (3×100 mL). The combined dichloromethane extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give a red gummy product. The crude product was purified by chromatography (silica gel, pet. ether-ethyl acetate) to give a white crystalline solid (1.1 g, 37% yield), m.p. 165°-166° C.

reactant | 4-pyridinecarboxaldehyde | 14.9 mM, 1.4 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | 2,5-dimethyl-2-phenyl-3(2H)-furanone | 10.6 mM, 2.0 g | CC1(OC(=CC1=O)C)C1=CC=CC=C1 | C12H12O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 2.1 mM, 323 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Methyl-2-phenyl-5-[2-(4-pyridinyl)ethenyl]-3(2H)-furanone | 1.1 g, 37% yield | CC1(OC(=CC1=O)C=CC1=CC=NC=C1)C1=CC=CC=C1 | C18H15NO2
